US06620828B2
Oxalyl chloride (4.9 mL, 56.00 mmol) was added to solution of 5-chloro-thiophene-2-carboxylic acid (4.78 g, 29.40 mmol), DMF (0.25 mL), and CH2Cl2 (50 ml) at room temperature. After stirring overnight, the reaction was stripped of solvent and unreacted oxalyl choride in vacuo, giving a colorless oil. The oil was dissolved in CH2Cl2 (50 mL), and treated with 3-aminoacetophenone (3.78 g, 28.00 mmol) and triethylamine (4.68 mL, 33.60 mmol). After stirring for 1 h, the mixture was diluted with 800 mL of ethyl acetate, extracted with 1N HCl, 1N NaHCO3, brine, and dried over MgSO4. The resulting solution was concentrated in vacuo to a volume of 100 mL, giving 5-chloro-thiophene-2-carboxylic acid (3-acetyl-phenyl)-amide as a white powder, which was collected by filtration and dried under high vacuum (8.12 g, 81% yield).

reactant | Oxalyl chloride | 56.00 mmol, 4.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-chloro-thiophene-2-carboxylic acid | 29.40 mmol, 4.78 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | 3-aminoacetophenone | 28.00 mmol, 3.78 g | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | triethylamine | 33.60 mmol, 4.68 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid (3-acetyl-phenyl)-amide | 81% yield | C(C)(=O)C=1C=C(C=CC1)NC(=O)C=1SC(=CC1)Cl | C13H10ClNO2S
